US09120749B2
6-bromo-N-(4-((dimethylamino)methyl)phenyl)-3-(methylsulfonyl)quinolin-4-amine
To a suspension of 6-bromo-4-chloro-3-(methylsulfonyl)quinoline (250 mg, 0.78 mmol) in dioxane (8 mL) was added 4-((dimethylamino)methyl)cyclohexanamine (233 mg, 1.55 mmol) and N,N-diisopropylethylamine (0.42 mL, 2.4 mmol). The reaction mixture was heated at 90° C. for 4 h. The reaction mixture was cooled to room temperature, diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, 0-20% methanol/dichloromethane) afforded the desired product (225 mg, 66%) as a yellow solid. ESI MS m/z 434 [C29H20BrN3O2+H]+

reactant | 6-bromo-4-chloro-3-(methylsulfonyl)quinoline | 0.78 mmol, 250 mg | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)Cl | C10H7BrClNO2S
reactant | 4-((dimethylamino)methyl)cyclohexanamine | 1.55 mmol, 233 mg | CN(C)CC1CCC(CC1)N | C9H20N2
reactant | N,N-diisopropylethylamine | 2.4 mmol, 0.42 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6-bromo-N-(4-((dimethylamino)methyl)phenyl)-3-(methylsulfonyl)quinolin-4-amine | 225 mg, 66% | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)NC1=CC=C(C=C1)CN(C)C | C19H20BrN3O2S
